US09227978B2
2-(4-Chloro-5-iodo-2-methoxyphenylamino)acetic acid
To a solution of ethyl 2-(4-chloro-5-iodo-2-methoxyphenylamino)acetate (8.6 g, 22.9 mmol) in THF (50 mL) and water (50 mL), LiOH.H2O (1.96 g, 45.9 mmol) was added and the resulting mixture was stirred at room temperature for 2 h. The mixture was washed with 20% ethyl acetate/petroleum ether. The aqueous layer was acidified with aqueous HCl (1 M) to adjust PH to 3-4 and extracted with ethyl acetate. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo to afford the desired product (5 g, 64% yield).

reactant | ethyl 2-(4-chloro-5-iodo-2-methoxyphenylamino)acetate | 22.9 mmol, 8.6 g | ClC1=CC(=C(C=C1I)NCC(=O)OCC)OC | C11H13ClINO3
reactant | LiOH.H2O | 45.9 mmol, 1.96 g | O[Li].O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 2-(4-Chloro-5-iodo-2-methoxyphenylamino)acetic acid | 5 g, 64% yield | ClC1=CC(=C(C=C1I)NCC(=O)O)OC | C9H9ClINO3
